US04628120
To (S)-2-methanesulfonyloxy-1,1-diphenyl-1-propanol (153 mg, 0.5 mmol) present in 5 ml of CH2Cl2 in Referential example 3 was added a hexane solution of triethylaluminum (0.6 mmol, 0.7 ml) slowly at -78° C. The color of the solution changed to yellow. After stirred further for 30 minutes, the reaction was stopped with three drops of phosphate buffer solution having a pH value of 7. The suspension obtained was diluted with ethyl acetate, dried over anhydrous Na2SO4, filtered and concentrated. Oily residue was subjected to the chromatography treatment with Florisil column to obtain 1,2-diphenyl-1-propanone (100 mg, 96%).

reactant | (S)-2-methanesulfonyloxy-1,1-diphenyl-1-propanol | 0.5 mmol, 153 mg | CS(=O)(=O)O[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H18O4S
reactant | hexane | CCCCCC | C6H14
reactant | triethylaluminum | 0.6 mmol, 0.7 ml | C(C)[Al](CC)CC
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | phosphate | three drops | P(=O)([O-])([O-])[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2-diphenyl-1-propanone | 100 mg, 96% | C1(=CC=CC=C1)C(C(C)C1=CC=CC=C1)=O | C15H14O
